US07572809B2
e) Preparation of 6-Methoxy-5-methyl-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one
A 10˜20 mL process vial was charged with 500 mg 2-Cyanomethyl-4-methoxy-3-methyl-benzoic acid and 5-Methyl-1H-pyrazol-3-ylamine in 15 mL AcOH. The vial was heated at 130° C. for 30 min under microwave irradiation. Most of the solvent was removed under reduced pressure, and the residue was poured into ice-water. The solid was collected and washed with water.

reactant | 2-Cyanomethyl-4-methoxy-3-methyl-benzoic acid | 500 mg | C(#N)CC1=C(C(=O)O)C=CC(=C1C)OC | C11H11NO3
reactant | 5-Methyl-1H-pyrazol-3-ylamine | CC1=CC(=NN1)N | C4H7N3
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | 6-Methoxy-5-methyl-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | COC=1C(=C2C=C(NC(C2=CC1)=O)NC1=NNC(=C1)C)C | C15H16N4O2
